US04704459
In 3 ml of benzene was dissolved 160 mg of ethyl 2-[2-(2,4-difluorophenylamino)-6-ethylthio-5-fluoronicotinoyl]acetate, and 72 mg of N,N-dimethylformamide dimethylacetal was added thereto, after which the resulting mixture was subjected to reaction under reflux for 2.5 hours. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene-ethyl acetate (10:1 by volume)] to obtain 115 mg (yield 70.1%) of ethyl 1-(2,4-difluorophenyl)-7-ethylthio-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 169.5°-171° C.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-6-ethylthio-5-fluoronicotinoyl]acetate | 160 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)SCC)F | C18H17F3N2O3S
reactant | N,N-dimethylformamide dimethylacetal | 72 mg | COC(N(C)C)OC | C5H13NO2
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | ethyl 1-(2,4-difluorophenyl)-7-ethylthio-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 115 mg, yield 70.1% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)SCC)F)=O)C(=O)OCC | C19H15F3N2O3S
